US08039460B2
Step C: 9-Allyl-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepine
Triethylamine (142 μL, 1.02 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (196 mg, 1.02 mmol), and 1-hydroxy-7-azabenzotriazole (139 mg, 1.02 mmol) were added to a solution of (2Z)-3-allyl-6-(2,3-difluorophenyl)azepan-2-one hydrazone (285 mg, 1.02 mmol) and 3,3,3-trifluoropropanoic acid (90 μL, 1.02 mmol) in acetonitrile (25 mL). After 18 h, additional triethylamine (0.14 mL, 1.02 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (100 mg, 0.52 mmol), 1-hydroxy-7-azabenzotriazole (70 mg, 0.51 mmol) and 3,3,3-trifluoropropanoic acid (45 μL, 0.51 mmol) were added. After 5.5 h, the reaction mixture was heated to 60° C. After 2.5 h, the mixture was cooled to ambient temperature. After 18 h, the reaction mixture was diluted with ethyl acetate and saturated aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate, washed with saturated brine, dried with sodium sulfate, filtered and concentrated. Purification by reverse phase HPLC (100% water→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compounds (275 mg). MS 372.1 (M+1).

reactant | Triethylamine | 1.02 mmol, 142 μL | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.02 mmol, 196 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 1.02 mmol, 139 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2Z)-3-allyl-6-(2,3-difluorophenyl)azepan-2-one hydrazone | 1.02 mmol, 285 mg | C(C=C)C1/C(/NCC(CC1)C1=C(C(=CC=C1)F)F)=N/N | C15H19F2N3
reactant | 3,3,3-trifluoropropanoic acid | 1.02 mmol, 90 μL | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | triethylamine | 1.02 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.52 mmol, 100 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.51 mmol, 70 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 3,3,3-trifluoropropanoic acid | 0.51 mmol, 45 μL | FC(CC(=O)O)(F)F | C3H3F3O2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 9-Allyl-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepine | 275 mg | C(C=C)C1C=2N(CC(CC1)C1=C(C(=CC=C1)F)F)C(=NN2)CC(F)(F)F | C18H18F5N3
